US07754756B2
a. 1-(3-tert-butoxycarbonylamino-3-methyl-butyl)-5-cyano-indole
Under a nitrogen atmosphere 4.07 g (16.9 mmol) 5-cyanoindole are dissolved in 30 ml DMF, and 0.73 g (18.3 mmol) sodium hydride (60% dispersion in mineral oil) are added batchwise while cooling with ice and with stirring. Then the mixture is stirred for 30 minutes at ambient temperature. It is heated to 50° C., 0.41 g (1.1 mmol) tetrabutylammonium iodide are added and over a period of 5 hours a solution of N-tert-butoxycarbonyl-3-chloro-1,1-dimethyl-propylamine is added dropwise. Then the mixture is stirred for 18 hours at ambient temperature. Then the reaction solution is poured onto water and extracted with ethyl acetate. The organic phases are combined, dried on sodium sulphate and freed from the solvent in vacuo. The residue is chromatographed on silica gel (petroleum ether/ethyl acetate=100:0→70:30). The product fractions are combined and freed from the solvent in vacuo. The residue is dissolved in 5 ml of methanol and poured onto 50 ml hot water. The precipitate thus obtained is suction filtered and dried in vacuo and reacted further without any further purification.

reactant | 5-cyanoindole | 16.9 mmol, 4.07 g | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | sodium hydride | 18.3 mmol, 0.73 g | [H-].[Na+]
reactant | N-tert-butoxycarbonyl-3-chloro-1,1-dimethyl-propylamine | C(C)(C)(C)OC(=O)NC(CCCl)(C)C | C10H20ClNO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 1.1 mmol, 0.41 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(3-tert-butoxycarbonylamino-3-methyl-butyl)-5-cyano-indole | C(C)(C)(C)OC(=O)NC(CCN1C=CC2=CC(=CC=C12)C#N)(C)C | C19H25N3O2
